US07067517B2
Methyl-phenyl-carbamic acid 4-(pyridin-3-yloxymethyl)-phenyl ester
The title compound was prepared in 43% yield as an oil using methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester and 3-hydroxypyridine. 1H NMR (400 MHz; CDCl3): δ 3.44 (br s, 3H), 5.12 (s, 2H), 7.17 (br s, 2H), 7.27–7.46 (m, 9H), 8.29 (br s, 1H), 8.49 (br s, 1H); HPLC-MS: m/z=335.0 (M+1); Rt=2.74 min.

reactant | methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester | OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO3
reactant | 3-hydroxypyridine | OC=1C=NC=CC1 | C5H5NO
product | Methyl-phenyl-carbamic acid 4-(pyridin-3-yloxymethyl)-phenyl ester | 43% yield | N1=CC(=CC=C1)OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H18N2O3
